US08563717B2
Intermediate 114: 1,1-Dimethylethyl 4-{4-[6-amino-2-[(1-methylethyl)oxy]-8-(methyloxy)-9H-purin-9-yl]butyl}-1-piperidinecarboxylate
To a solution of 2-[(1-methylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine (37 mg, 0.166 mmol) in DMF (0.5 ml) was added potassium carbonate (55 mg, 0.398 mmol) followed by a solution of 1,1-dimethylethyl 4-(4-bromobutyl)-1-piperidinecarboxylate (58 mg, 0.181 mmol) in DMF (0.2 ml) and the mixture was stirred at room temperature for 72 hours. The mixture was diluted with dichloromethane (5 ml) and washed with water (5 ml). The layers were separated using a hydrophobic frit, the aqueous layer was extracted again with dichloromethane (5 ml) and the combined organic extracts were evaporated. The residue was dissolved in methanol (0.6 ml) and purified by MDAP (Method A). The appropriate fractions were combined and evaporated under a stream of nitrogen in a blowdown apparatus to give the title compound as a colourless gum (32 mg).

reactant | 2-[(1-methylethyl)oxy]-8-(methyloxy)-1H-purin-6-amine | 0.166 mmol, 37 mg | CC(C)OC=1NC(=C2N=C(N=C2N1)OC)N | C9H13N5O2
reactant | potassium carbonate | 0.398 mmol, 55 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1-dimethylethyl 4-(4-bromobutyl)-1-piperidinecarboxylate | 0.181 mmol, 58 mg | BrCCCCC1CCN(CC1)C(=O)OC(C)(C)C | C14H26BrNO2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-{4-[6-amino-2-[(1-methylethyl)oxy]-8-(methyloxy)-9H-purin-9-yl]butyl}-1-piperidinecarboxylate | 32 mg | NC1=C2N=C(N(C2=NC(=N1)OC(C)C)CCCCC1CCN(CC1)C(=O)OC(C)(C)C)OC | C23H38N6O4
